US05756763
In 90 ml of dioxane and 60 ml of water was suspended 3.00 g of (S)-2-amino-3-cyclohexylpropionic acid hydrochloride. Under ice cooling, 4.25 ml of triethylamine and 3.47 g of di-t-butyl dicarbonate were added to the suspension. The mixture was stirred at room temperature for 4.5 hours. As the reaction proceeded, the suspension changed to a homogeneous solution. The solvent was then distilled off under vacuum and 30 ml of water was added to the thus obtained white solid. The resulting solution was washed with 20 ml of ethyl acetate. By adding 3.0 ml of 5N hydrochloric acid to the aqueous layer, the pH was made acidic (pH 2). The mixture was extracted twice with 20 ml each of ethyl acetate. The extracts were combined and washed with 20 ml of saturated sodium chloride aqueous solution. After drying over anhydrous sodium sulfate, the solvent was distilled off to give 3.06 g of (S)-2-t-butoxycarbonylamino-3-cyclohexylpropionic acid as a colorless transparent amorphous solid. On the other hand, 10 ml of water was added to the liquid previously obtained by washing with ethyl acetate. After the mixture was rendered acidic as shown above, extraction was performed with ethyl acetate and 0.92 g of the recovered syrup-like substance was purified by column chromatography (Sephadex LH-20, methanol) to give 0.86 g of the product. Yield, 100%.

reactant | water | 60 ml | O | H2O
reactant | (S)-2-amino-3-cyclohexylpropionic acid hydrochloride | 3.00 g | Cl.N[C@H](C(=O)O)CC1CCCCC1
reactant | triethylamine | 4.25 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 3.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
product | (S)-2-t-butoxycarbonylamino-3-cyclohexylpropionic acid | 3.06 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CCCCC1 | C14H25NO4
